US07309726B2
A four-neck flask equipped with a cooling pipe, thermometer, and a stirrer was loaded with 722 g of n-propyltrichlorosilane and 488 g of toluene. While the components were stirred, a mixture of 137 g of water, 18 g of methyl-triisopropoxysilane, and 300 g of isopropyl alcohol was added dropwise. Upon completion of the addition, the mixture was heated to 70° C. and stirred for 30 min. The mixture was then cooled, and the separated water layer was removed. The organic layer was &en washed three times with water. The product was combined with 1000 g of water in which 10 g of sodium hydroxide was dissolved, and the components were mixed for 1 hour and washed three times with water. The cooling tube was replaced with a water separation tube, the product was heated, water was azeotropically removed, the solvent was removed by stripping, and, as result, a highly viscous organopolysiloxane was obtained. Analysis wing 13C-NMR, 29Si-NMR, and GPC showed that the obtained organopolysiloxane resin (TP-2) with a weight-average molecular weight of 4000 was represented by the following constitutional formula: (n-C3H7SiO3/2)0.54(CH3SiO3/2)0.1[n-C3H7(HO)aSiO(3-a)/2]0.27[n-C3H7(i-C3H7O)bSiO(3-b)/2]0.09, where a=1 or 2, and b=1 or 2.

reactant | n-propyltrichlorosilane | 722 g | C(CC)[Si](Cl)(Cl)Cl | C3H7Cl3Si
reactant | toluene | 488 g | C1(=CC=CC=C1)C | C7H8
reactant | water | 137 g | O | H2O
reactant | methyl-triisopropoxysilane | 18 g | C[Si](OC(C)C)(OC(C)C)OC(C)C | C10H24O3Si
solvent | isopropyl alcohol | 300 g | C(C)(C)O | C3H8O
product | TP-1 | C/C=C/C1C[C@H]([C@H](C1)O)O | C8H14O2
